US08426430B2
To a solution of N4-(3-ethynylphenyl)quinazoline-4,6-diamine (100 mg, 0.38 mmol) in DMF (2 mL) containing pyridine (37 μL, 0.46 mmol) was added phenyl chloroformate (49 μL, 0.38 mmol) dropwise at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The combined organic layers were concentrated to give phenyl 4-(3-ethynylphenylamino)quinazolin-6-ylcarbamate as a yellow solid in 95% yield and used in the next step without purification.

reactant | N4-(3-ethynylphenyl)quinazoline-4,6-diamine | 0.38 mmol, 100 mg | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C16H12N4
reactant | pyridine | 0.46 mmol, 37 μL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.38 mmol, 49 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | phenyl 4-(3-ethynylphenylamino)quinazolin-6-ylcarbamate | 95% yield | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(OC1=CC=CC=C1)=O | C23H16N4O2
